US05240925
a. Preparation of Methyl 11-(2,6-Dimethyl-4-morpholinyl)undecylate
This intermediate (12.0 g.) was prepared using the procedure described in Example 4a except using 12 g. (0.045 mole) of methyl 11-bromoundecylate, 5.5 ml. (0.045 mole) of 2,6-dimethylmorpholine, 6.12 ml. of triethylamine, and 15 ml. of toluene and was isolated as a yellow, viscous liquid.

reactant | methyl 11-bromoundecylate | 0.045 mole | BrCCCCCCCCCCC(=O)OC | C12H23BrO2
reactant | 2,6-dimethylmorpholine | 0.045 mole | CC1CNCC(O1)C | C6H13NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Methyl 11-(2,6-Dimethyl-4-morpholinyl)undecylate | CC1CN(CC(O1)C)CCCCCCCCCCC(=O)OC | C18H35NO3
